US07253286B2
6-Methoxy-4-(4-nitrophenoxy)quinoline-7-carbonitrile
After dissolving trifluoromethanesulfonic acid 6-methoxy-4-(4-nitrophenoxy)quinolin-7-yl ester (500 mg) in dimethylformamide (5 ml), there were added zinc cyanide (260 mg) and tetrakis triphenylphosphine palladium (0) (130 mg) and the mixture was heated and stirred at 110° C. for 2 hours under a nitrogen atmosphere. Water was added, extraction was performed with ethyl acetate, the organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. Ethyl acetate was used for recrystallization to obtain the title compound (300 mg).

reactant | trifluoromethanesulfonic acid 6-methoxy-4-(4-nitrophenoxy)quinolin-7-yl ester | 500 mg | COC=1C=C2C(=CC=NC2=CC1OS(=O)(=O)C(F)(F)F)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H11F3N2O7S
reactant | Water | O | H2O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 260 mg | [C-]#N.[Zn+2].[C-]#N
product | 6-Methoxy-4-(4-nitrophenoxy)quinoline-7-carbonitrile | 300 mg | COC=1C=C2C(=CC=NC2=CC1C#N)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H11N3O4
